US06489318B1
To a solution of allyl (8S,9R,10S)-10-((R)-(1-(tert-butyldimethylsilyl)oxy)ethyl)-11-oxo-1-azatricyclo-[7.2.0.03,8]undec-2-ene-2-carboxylate (405 mg;1 mmole) prepared according to the process disclosed in Example 9a in tetrahydrofuran (10 ml), 1M tetrabutylammonium fluoride solution (3 ml; 3 mmole) in tetrahydrofuran and acetic acid (0.23 ml; 4 mmole) were added. The obtained mixture was stirred for 2 hours at room temperature. Then the solution was shaken with saturated aqueous sodium hydrogencarbonate solution (10 ml) and the obtained mixture was extracted with ethyl acetate (3×15 ml). The organic phases were combined and dried with sodium sulfate, the drying agent was filtered off and the solvent was evaporated from the filtrate. (8S,9R,10S)-10-((R)-(1-hydroxyethyl)-11-oxo-1-azatricyclo-[7.2.0.03,8]undec-2-ene-2-carboxylate (267 mg; 92%) was obtained as a crude product in the form of a yellowish viscous oil.

reactant | tetrabutylammonium fluoride | 3 mmole, 1M, 3 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetic acid | 4 mmole, 0.23 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydrogencarbonate | 10 ml | C(O)([O-])=O.[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (R)-(1-hydroxyethyl)-11-oxo-1-azatricyclo-[7.2.0.03,8]undec-2-ene-2-carboxylate | 267 mg, 92% | O[C@@H](C)OC(=O)C=1N2C(CC2C2CCCCC12)=O | C13H17NO4
